US04029657
6,7-Dichloro-4-ethyl-3,4-dihydro-2H-pyrazino(2,3-b)(1,4)oxazine
Tetrachloropyrazine (22 g, 0.1 mol), ethylaminoethanol (9 g, 0.1 mol), and crushed KOH (16.5 g, 85% assay, 0.25 mol) were contacted overnight in 200 ml of refluxing benzene. Work-up gave a mixture of the oxazine (25%) and of the O-adduct (75%). The mixture was dissolved in THF and triethylamine (20 g, 0.2 mol) was added and held at reflux temperature for 6 days. The solid was filtered, the THF rotary evaporated, and the residual oil was partitioned between water and CH2Cl2. The organic layer was dried (MgSO4) and rotary evaporated to leave an oily residue. This was recrystallized from hexane and IPA to give two crops totaling 2.8 g (12% yield), m.p. 108°-10°.

reactant | Tetrachloropyrazine | 0.1 mol, 22 g | ClC1=C(N=C(C(=N1)Cl)Cl)Cl | C4Cl4N2
reactant | ethylaminoethanol | 0.1 mol, 9 g | C(C)NC(C)O | C4H11NO
reactant | KOH | 0.25 mol, 16.5 g | [OH-].[K+]
reactant | oxazine | O1NC=CC=C1 | C4H5NO
reactant | triethylamine | 0.2 mol, 20 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | THF | C1CCOC1 | C4H8O
product | 6,7-Dichloro-4-ethyl-3,4-dihydro-2H-pyrazino(2,3-b)(1,4)oxazine | 12% yield | ClC1=NC2=C(OCCN2CC)N=C1Cl | C8H9Cl2N3O
